US06518257B1
(iii) Production of N-cyclopropyl-4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 4-(iii) using N-cyclopropyl-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carboxamide (2.13 g) and pyridine hydrochloride (650 mg), the title compound (375 mg) was obtained as colorless powder crystals.

reactant | N-cyclopropyl-4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carboxamide | 2.13 g | C1(CC1)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C42H39N3O2
reactant | pyridine hydrochloride | 650 mg | Cl.N1=CC=CC=C1
product | N-cyclopropyl-4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-carboxamide | 375 mg | C1(CC1)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(C=1N=CNC1)O | C23H25N3O2
